US05955607
b) 2-[Ethanesulfonyl-(6-fluoro-2,2-dimethylchroman-4-yl)amino]-N-pyridin-4-ylacetamide
141 mg of p-aminopyridine and a spatula tipful of DMAP dissolved in 6 ml of pyridine are treated with a solution of 655 mg of [ethanesulfonyl-(6-fluoro-2,2-dimethylchroman-4-yl)amino]acetyl chloride in 6 ml of methylene chloride. The mixture is stirred at RT for 4 h and then concentrated in vacuo. The product is partitioned between EA and water and the organic phase is washed with water. After removing the solvent in vacuo, 600 mg of the product are obtained as a colorless foam (m.p. 195° C.).

reactant | p-aminopyridine | 141 mg | NC1=CC=NC=C1 | C5H6N2
reactant | [ethanesulfonyl-(6-fluoro-2,2-dimethylchroman-4-yl)amino]acetyl chloride | 655 mg | C(C)S(=O)(=O)N(C1CC(OC2=CC=C(C=C12)F)(C)C)CC(=O)Cl | C15H19ClFNO4S
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | 2-[Ethanesulfonyl-(6-fluoro-2,2-dimethylchroman-4-yl)amino]-N-pyridin-4-ylacetamide | C(C)S(=O)(=O)N(CC(=O)NC1=CC=NC=C1)C1CC(OC2=CC=C(C=C12)F)(C)C | C20H24FN3O4S
